US06743776B2
To a suspension of 1-(4-hexyloxyphenyl)piperazine dihydrochloride (0.914 g) and potassium bicarbonate (0.564 g) in dimethylsulfoxide (5 ml) was added ethyl p-fluorobenzoate (0.2 ml) and stirred for 10 hours at 150° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give ethyl 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoate (0.347 g).

reactant | 1-(4-hexyloxyphenyl)piperazine dihydrochloride | 0.914 g | Cl.Cl.C(CCCCC)OC1=CC=C(C=C1)N1CCNCC1
reactant | potassium bicarbonate | 0.564 g | C([O-])(O)=O.[K+]
reactant | ethyl p-fluorobenzoate | 0.2 ml | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[4-(4-hexyloxyphenyl)piperazin-1-yl]benzoate | 0.347 g | C(CCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C25H34N2O3
